### PR TITLE
[Merged by Bors] - chore: golf `separable_iff_squarefree`

### PR DESCRIPTION
**Pull request by alreadydone**
In fact this theorem admits a proof without using any lemmas introduced in #10170.

For this I had to remove some redundant [GCDMonoid R] assumptions in RingTheory/PrincipalIdealDomain.lean.

---

DecompositionMonoid will be a separate PR; independently I think most results about IsCoprime can be generalized to IsRelPrime (defined as `∀ p, p ∣ x → p ∣ y → IsUnit p`), and maybe we should do that first ... 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/Perfect.lean [hunk 1]
```diff
@@ -231,22 +230,11 @@ instance toPerfectRing (p : ℕ) [ExpChar K p] : PerfectRing K p := by
...
-    apply (ihp hp).mul (ihq hq)
-    classical
-    apply EuclideanDomain.isCoprime_of_dvd
-    · rintro ⟨rfl, rfl⟩; simp at hp
-    · exact fun d hd _ hdp hdq ↦ mem_nonunits_iff.mpr hd <| h d hdp hdq
+theorem separable_iff_squarefree {g : K[X]} : g.Separable ↔ Squarefree g :=
+  ⟨Separable.squarefree, fun sqf ↦ isCoprime_of_irreducible_dvd (sqf.ne_zero ·.1) fun p h ↦ by
+    rintro ⟨q, rfl⟩ dvd
+    rw [derivative_mul, dvd_add_left (dvd_mul_right p _)] at dvd
+    exact h.1 (sqf _ <| mul_dvd_mul_left _ <| (separable_of_irreducible h).dvd_of_dvd_mul_left dvd)⟩
```
Comment (ocfnash) [inline Mathlib/FieldTheory/Perfect.lean:237]: This is a great proof but I think we should make it a bit to read:
```suggestion
theorem separable_iff_squarefree {g : K[X]} : g.Separable ↔ Squarefree g := by
  refine ⟨Separable.squarefree,
    fun sqf ↦ isCoprime_of_irreducible_dvd (not_and_of_not_left _ sqf.ne_zero) ?_⟩
  rintro p (h : Irreducible p) ⟨q, rfl⟩ (dvd : p ∣ derivative (p * q))
  suffices IsUnit p by exact h.1 this
  replace dvd : p ∣ q := by
    rw [derivative_mul, dvd_add_left (dvd_mul_right p _)] at dvd
    exact (separable_of_irreducible h).dvd_of_dvd_mul_left dvd
  exact sqf _ <| mul_dvd_mul_left _ dvd
```

**Review by ocfnash — APPROVED** [review]
Excellent, thanks!

It's especially good to have that stray `[GCDMonoid R]` now confined.

bors d+

File: Mathlib/FieldTheory/Perfect.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/Perfect.lean]: Thanks! I mostly adopted your suggestion in [c79c948](https://github.com/leanprover-community/mathlib4/pull/10236/commits/c79c948495b7c59bc57ac4f5f7711a7c5c945e9f) except I combined the `suffices` line with the last `exact` as a compromise between verbosity and readability. (I also think `(sqf.ne_zero ·.1)` is nice; these side condition should ideally be automated away rather than showing up in the proof, so it's desirable to make its appearance as short as possible.)

Comment (alreadydone) [reply Mathlib/FieldTheory/Perfect.lean]: I restored `(sqf.ne_zero ·.1)` since you thumbed up.
